US08022222B2
Using the method of Example 32, 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid (0.1 g, 0.3055 mmol), triethylamine (0.2129 mL, 1.527 mmol), ethyl carbonochloridate (0.03359 mL, 0.3513 mmol), N1-isopropylethane-1,2-diamine (0.1143 mL, 0.9164 mmol) were reacted in THF (2 mL) to provide N-(2-(isopropylamino)ethyl)-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzamide dihydrochloride (0.063 g, 39.59% yield) as a light yellow solid. 1H NMR (CDCl3) δ 9.51 (bs, 1H), 8.74 (s, 1H), 8.15 (d, 1H), 7.92 (d, 1H), 7.81 (s, 1H), 7.49 (t, 1H), 7.22 (d, 1H), 6.83 (d, 1H), 6.44 (s, 1H), 3.92 (m, 2H), 3.24 (m, 2H), 3.12 (m, 1H), 2.42 (s, 3H), 1.46 (d, 6H); Mass spectrum (esi) m/z=412 (100) (M+H).

reactant | 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid | 0.3055 mmol, 0.1 g | CC=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(C(=O)O)C=CC1 | C16H13N3O3S
reactant | triethylamine | 1.527 mmol, 0.2129 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl carbonochloridate | 0.3513 mmol, 0.03359 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | N1-isopropylethane-1,2-diamine | 0.9164 mmol, 0.1143 mL | C(C)(C)NCCN | C5H14N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(2-(isopropylamino)ethyl)-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzamide dihydrochloride | 0.063 g, 39.59% yield | Cl.Cl.C(C)(C)NCCNC(C1=CC(=CC=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C)=O | InChI=1S/C21H25N5O2S.2ClH/c1-14(2)22-9-10-24-20(27)16-5-4-6-17(11-16)28-18-7-8-23-19(12-18)26-21-25-15(3)13-29-21;;/h4-8,11-14,22H,9-10H2,1-3H3,(H,24,27)(H,23,25,26);2*1H
